US09169295B2
(9H-Fluoren-9-yl)methyl(S)-1-((S)-1-((S)-1-((S)-1-amino-3-(4-hydroxyphenyl)-1-oxopropan-2-ylamino)-1-oxopropan-2-ylamino)-1-oxopropan-2-ylamino)-3-(4-hydroxyphenyl)-1-oxopropan-2-ylcarbamate
Following the procedure described in Example 7, except using (S)-2-amino-N-((S)-1-((S)-1-amino-3-(4-hydroxyphenyl)-1-oxopropan-2-ylamino)-1-oxopropan-2-yl)propanamide (40 mg, 0.124 mmol), Fmoc-L Tyrosine (52.6 mg, 0.130 mmol), 1-hydroxy-7-azabenzotriazole (9.5 mg, 0.070 mmol), anhydrous DMF (1.2 mL), N-methylmorpholine (16 μL, 0.146 mmol), EDC (28.5 mg, 0.149 mmol) and stirring at room temp for 4 h 15 min, 48.4 mg (47.5%) of the title compound is isolated as an off white solid. Purification is done by preparative HPLC (Condition A) using a PHENOMENEX® Luna Axia 30×100 mm S10 column from 35% Solvent B to 100% Solvent B over 11 min, ret. T=8.79 min. LC/MS (Condition A): ret. T=3.46 min, (M+H)+ 708.32. Analytical HPLC: (Condition A): >99%, ret. T=21.87 min, (Condition B): >99%, ret. T=22.15 min, (Condition C): >98%, ret. T=13.82 min, (Condition D): >99%, ret. T=12.79 min.

reactant | (S)-2-amino-N-((S)-1-((S)-1-amino-3-(4-hydroxyphenyl)-1-oxopropan-2-ylamino)-1-oxopropan-2-yl)propanamide | 0.124 mmol, 40 mg | N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N)CC1=CC=C(C=C1)O)C)C | C15H22N4O4
reactant | Fmoc-L Tyrosine | 0.130 mmol, 52.6 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C24H21NO5
reactant | 1-hydroxy-7-azabenzotriazole | 0.070 mmol, 9.5 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-methylmorpholine | 0.146 mmol, 16 μL | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.149 mmol, 28.5 mg
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | (9H-Fluoren-9-yl)methyl(S)-1-((S)-1-((S)-1-((S)-1-amino-3-(4-hydroxyphenyl)-1-oxopropan-2-ylamino)-1-oxopropan-2-ylamino)-1-oxopropan-2-ylamino)-3-(4-hydroxyphenyl)-1-oxopropan-2-ylcarbamate | 48.4 mg, 47.5% | NC([C@H](CC1=CC=C(C=C1)O)NC([C@H](C)NC([C@H](C)NC([C@H](CC1=CC=C(C=C1)O)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)=O)=O)=O | C39H41N5O8
